US04362728
A mixture of 2-thiocytosine (0.25 g.), 1,5-diazabicyclo[5,4,0]undec-5-ene (0.33 g.), ethanol (10 ml.) and N-(4-bromobutyl)phthalimide (0.62 g.) was stirred at room temperature for 18 hours and then evaporated to dryness. The residue was partitioned between water and ethyl acetate and the ethyl acetate phase was dried and evaporated to dryness. The residue was recrystallised from acetonitrile to give 4-amino-2-(4-phthalimidobutylthio)pyrimidine (0.56 g.), m.p. 164°-167°.

reactant | 2-thiocytosine | 0.25 g | N1C(=S)N=C(N)C=C1 | C4H5N3S
reactant | 1,5-diazabicyclo[5,4,0]undec-5-ene | 0.33 g | N12CCCN=CC2CCCC1 | C9H16N2
reactant | N-(4-bromobutyl)phthalimide | 0.62 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-amino-2-(4-phthalimidobutylthio)pyrimidine | 0.56 g | NC1=NC(=NC=C1)SCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C16H16N4O2S
